US07781443B2
(2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(N-hydroxy-carbamimidoyl)pyridin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (193 mg) and triethylamine (126 μl) are dissolved in dichloromethane (3 ml), and thereto is added triphosgene (268 mg) at 0° C. The mixture is stirred at room temperature for 30 minutes. To the reaction solution are added water and dichloromethane, and the organic layer is washed with saturated brine. Then the organic layer is dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; chloroform:methanol=1:0→97:3) to give (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)pyridin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (33 mg). MS (m/z): 667 [M+H]+.

reactant | (2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(N-hydroxy-carbamimidoyl)pyridin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 193 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C=C1CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(NO)=N)CC | C29H30F6N6O4
reactant | triethylamine | 126 μl | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 268 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | water | O | H2O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)pyridin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 33 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C=C1CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=NOC(N1)=O)CC | C30H28F6N6O5
